US05721234
N-Methyl-N-(6-nitro-2,3-dioxo-1,2,3,4,7,8,9,10-octahydro-benzo[f]quinoxalin-9-yl)-benzamide
A mixture of 9-Methylamino-6-nitro-1,2,3,4,7,8,9,10-octahydrobenzo[f]quinoxaline-2,3-dione (0.16 g, 0.5 mmol), benzoic anhydride (0.22 g, 1 mmol) and triethylamine (0.1 g, 1 mmol) in DMF (5 mL) was stirred at room temperature for 18 h. The solvent was removed, and the residue suspended in 2N HCl. The solid was collected by filtration, washed successively with water and dimethyl ether and dried. Calc'd for C20H18N4 O5.H2O: C, 59.81; H, 4.72; N, 13.95; found: C, 59.98; H, 4.60; N, 13.60.

reactant | 9-Methylamino-6-nitro-1,2,3,4,7,8,9,10-octahydrobenzo[f]quinoxaline-2,3-dione | 0.5 mmol, 0.16 g | CNC1CCC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C13H14N4O4
reactant | benzoic anhydride | 1 mmol, 0.22 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | triethylamine | 1 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Methyl-N-(6-nitro-2,3-dioxo-1,2,3,4,7,8,9,10-octahydro-benzo[f]quinoxalin-9-yl)-benzamide | CN(C(C1=CC=CC=C1)=O)C1CCC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C20H18N4O5
